US08202858B2
N-(4-Chloro-2-hydroxy-phenyl)-benzamide
2-Amino-5-chlorophenol (1.45 g, 10 mmol) was dissolved in EtOAc (30 ml) and water (20 ml). Sodium bicarbonate (1.25 g, 15 mmol) then benzoyl chloride (1.42 g, 10 mmol) were added and the mixture was stirred at room temperature for 1 h. The layers were partitioned and the organic layer was washed with brine, dried and concentrated in vacuo. The residue was triturated with di-ethyl ether to yield the title compound (2.05 g, 82%).

reactant | 2-Amino-5-chlorophenol | 10 mmol, 1.45 g | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | Sodium bicarbonate | 15 mmol, 1.25 g | C([O-])(O)=O.[Na+]
reactant | benzoyl chloride | 10 mmol, 1.42 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(4-Chloro-2-hydroxy-phenyl)-benzamide | 2.05 g, 82% | ClC1=CC(=C(C=C1)NC(C1=CC=CC=C1)=O)O | C13H10ClNO2
